US05002966
5-Methyl-2-thienylpropanol
N-Butyllithium in hexane (1.5M; 35.6 ml) was added dropwise at room temperature under nitrogen to a solution of 2-methylthiophene (5.0 g) in dry THF (50 ml). After stirring for 2.25 h, oxetane (4.42 g) in dry THF (15 ml) was added dropwise and stirring continued for 22.5 h. Saturated ammonium chloride solution (200 ml) was added and the mixture extracted with diethyl ether (3×200 ml), dried and evaporated in vacuo to give an oil. Purification by FCC on silica gel with cyclohexane-diethyl ether (1:1) as eluent gave the title compound as a pale orange oil (1.4 g). T.l.c. (cyclohexane-diethyl ether 1:1) Rf 0.31.

reactant | N-Butyllithium | [Li+].CCC[CH2-]
reactant | 2-methylthiophene | 5.0 g | CC=1SC=CC1 | C5H6S
reactant | oxetane | 4.42 g | O1CCC1 | C3H6O
reactant | ammonium chloride | 200 ml | [Cl-].[NH4+]
solvent | hexane | 1.5M, 35.6 ml | CCCCCC | C6H14
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 5-Methyl-2-thienylpropanol | 1.4 g | CC1=CC=C(S1)C(CC)O | C8H12OS
